US04567268
In a similar manner, 2.77 grams of 80 percent pyridinium bromide perbromide (6.93 millimoles) was added in one portion to a cooled to 0° C. solution of 2.00 grams (5.77 millimoles) of dimethyl 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate (nifedipine), and 0.81 milliliter of pyridine in 40 milliliters of chloroform. The resulting mixture was stirred at 0° C. for 30 minutes, at reflux temperature for 90 minutes, allowed to cool to room temperature, diluted with chloroform, washed with 2N hydrochloric acid and with brine, dried, and the solvent vaporized in vacuo to obtain a crude product residue. The latter was flash chromatographed (J. Org. Chem. 43, 2923 (1978)) on silica gel employing 70 percent ethyl acetate--30 percent hexane as eluant to obtain 0.45 gram (24 percent yield) of purified methyl 2-methyl-4-(2-nitrophenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]-pyridine-3-carboxylate product which after recrystallizing from ethyl acetate hexane had a melting point of 261°-263° C. (dec.). Elemental analyses were as follows:

reactant | pyridinium bromide perbromide | 6.93 millimoles, 2.77 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | dimethyl 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 5.77 millimoles, 2.00 grams | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C | C17H18N2O6
reactant | pyridine | 0.81 milliliter | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 40 milliliters | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-methyl-4-(2-nitrophenyl)-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]-pyridine-3-carboxylate | 0.45 gram, 24 percent yield | CC1=C(C(C2=C(N1)COC2=O)C2=C(C=CC=C2)[N+](=O)[O-])C(=O)OC | C16H14N2O6
